US07888352B2
(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)methylamine was reacted with 1-methyl-1H-imidazole-4-carbaldehyde using standard reductive amination conditions. The resulting crude material was triturated with diethyl ether and methanol to give (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-methyl-(1-methyl-1H-imidazol-4-ylmethyl)-amine as a solid (93% yield).

reactant | (2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)methylamine | ClC=1N=C(C2=C(N1)C=C(S2)CNC)N2CCOCC2 | C12H15ClN4OS
reactant | 1-methyl-1H-imidazole-4-carbaldehyde | CN1C=NC(=C1)C=O | C5H6N2O
product | (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-methyl-(1-methyl-1H-imidazol-4-ylmethyl)-amine | 93% yield | ClC=1N=C(C2=C(N1)C=C(S2)CN(CC=2N=CN(C2)C)C)N2CCOCC2 | C17H21ClN6OS
